US06900215B2
A suspension of 2-aminoimidazole hemisulfate (15.2 g, 115 mmol) and sodium methoxide (7.14 g, 132 mmol) in ethanol (75 ml) was heated at reflux for 10 min before adding a solution of 3,3-diethoxypropionitrile (17.3 ml, 115 mmol) in ethanol (25 ml). The reaction was heated under reflux for a further 16 h then cooled to ambient temperature and evaporated to dryness. The residue was suspended in dichloromethane (300 ml), filtered and the filtrate was pre-adsorbed onto silica. Purification on silica, eluting with dichloromethane (+1% conc. ammonia) on a gradient of methanol (3-11%) gave imidazo[1,2-α]pyrimidin-7-ylamine as a pale orange solid (10.06 g, 65%): δH (400 MHz, DMSO) 6.24 (1H, d, J 7), 6.72 (2H, br), 7.11 (1H, d, J 1.5), 7.35 (1H, d, J 1.5), 8.36 (1H, d, J 7).

reactant | 2-aminoimidazole hemisulfate | 115 mmol, 15.2 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | sodium methoxide | 132 mmol, 7.14 g | C[O-].[Na+]
reactant | 3,3-diethoxypropionitrile | 115 mmol, 17.3 ml | C(C)OC(CC#N)OCC | C7H13NO2
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | imidazo[1,2-α]pyrimidin-7-ylamine | 10.06 g, 65% | N=1C=CN2C1N=C(C=C2)N | C6H6N4
